US06982348B2
5) 9,9-dimethyl-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-5-ol
To a solution of 9,9-dimethyl-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-5-one (5.780 g, 30.70 mmol) in methanol (40 ml) was added sodium borohydride (1.16 g, 30.7 mmol) by small portions under ice-cooling, and the mixture was stirred overnight at room temperature. The reaction solution was concentrated under reduced pressure, diluted with water, and extracted twice with ethyl acetate. The recovered organic layer was dried over anhydrous magnesium sulfate and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=9/1-6/1) to give the objective substance.

reactant | 9,9-dimethyl-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-5-one | 30.70 mmol, 5.780 g | CC1(CCCC(C2=C1C=CC=C2)=O)C | C13H16O
reactant | sodium borohydride | 30.7 mmol, 1.16 g | [BH4-].[Na+]
solvent | methanol | 40 ml | CO | CH4O
product | 9,9-dimethyl-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-5-ol | CC1(CCCC(C2=C1C=CC=C2)O)C | C13H18O
